US20010053785A1
2-[4′-(2-Benzoyl-benzofuran-3-yl)-biphenyl-4-yloxy]-3-phenyl-propionic acid
The title compound was prepared from 4′-(2-benzoyl-benzofuran-3-yl)-biphenyl-4-ol, and 3-phenyllactic acid methyl ester, in substantially the same manner, as described in Example 1, steps g-h, and was obtained as a yellow solid, mp 159-161° C.; MS m/e 538 (M+);

reactant | 4′-(2-benzoyl-benzofuran-3-yl)-biphenyl-4-ol | C(C1=CC=CC=C1)(=O)C=1OC2=C(C1C1=CC=C(C=C1)C1=CC=C(C=C1)O)C=CC=C2 | C27H18O3
reactant | 3-phenyllactic acid methyl ester | COC(C(O)CC1=CC=CC=C1)=O | C10H12O3
product | 2-[4′-(2-Benzoyl-benzofuran-3-yl)-biphenyl-4-yloxy]-3-phenyl-propionic acid | C(C1=CC=CC=C1)(=O)C=1OC2=C(C1C1=CC=C(C=C1)C1=CC=C(C=C1)OC(C(=O)O)CC1=CC=CC=C1)C=CC=C2 | C36H26O5
